US08633186B2
2-(2-(2-ethoxyethoxy)ethoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2-(2-ethoxyethoxy)ethanol and 2,6-dinitrobenzonitrile in 66% yield. MS 281 (MH+).

reactant | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-(2-ethoxyethoxy)ethoxy)-6-nitrobenzonitrile | 66% yield | C(C)OCCOCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C13H16N2O5
